US05726063
2-Acetylselenophene phenylhydrazone
This compound is prepared from commercial phenylhydrazine hydrochloride (Aldrich) and 2-acetylselenophene, which is itself obtained according to the procedure described by S. Umezawa (reference 18).

reactant | phenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)NN
reactant | 2-acetylselenophene | C(C)(=O)C=1[Se]C=CC1 | C6H6OSe
product | 2-Acetylselenophene phenylhydrazone | C1(=CC=CC=C1)NN=C(C)C=1[Se]C=CC1 | C12H12N2Se
